US08664228B2
Step 2: 2-tert-Butoxycarbonylamino-pent-4-enoic acid methyl ester
2-tert-Butoxycarbonylamino-pent-4-enoic acid (9.3 g, 43.3 mmol) in acetone (70 mL) is treated with solid potassium carbonate (11.9 g, 86.6 mmol) followed by methyl iodide (5.4 mL, 86.6 mmol). The resulting mixture is heated to reflux for 4 h and then allowed to cool to RT. The solvent is removed in vacuo and the crude residue is dissolved in EtOAc, washed with water, saturated sodium hydrogen carbonate solution, brine, dried (MgSO4) and concentrated in vacuo. The crude residue is purified by flash chromatography (SiO2, iso-hexane:EtOAc 7:3) to afford the title compound as a light-yellow oil.

reactant | 2-tert-Butoxycarbonylamino-pent-4-enoic acid | 43.3 mmol, 9.3 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC=C | C10H17NO4
reactant | potassium carbonate | 86.6 mmol, 11.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 86.6 mmol, 5.4 mL | CI | CH3I
solvent | acetone | 70 mL | CC(=O)C | C3H6O
product | 2-tert-Butoxycarbonylamino-pent-4-enoic acid methyl ester | COC(C(CC=C)NC(=O)OC(C)(C)C)=O | C11H19NO4
